US09108938B2
To a vessel equipped with a stir bar, Zn dust (1.8 g, 27.8 mmol) was added H2O (20 mL). The reaction vessel was then capped, wrapped in aluminum foil and cooled in an ice bath to 0° C. Difluoromethanesulfonyl chloride (5 g, 33.3 mmol) was then added via syringe open to air. The reaction vessel was sealed with cap and the reaction mixture was removed from the ice bath and allowed to warm to room temperature over 2 h. The excess Zn was removed via filtration, washed with EtOAc (3×10 mL), the filtrate was concentrated under reduced pressure. Residual water was removed azeotropically with toluene (3×10 mL) at 45° C., and the resulting pearly yellow powder was further dried under vacuum for an additional 3 h to give bis(((difluoromethyl)sulfinyl)oxy)zinc (DFMS) (4 g, yield: 81.6%), which was used in the next step without purification. 1H NMR (DMSO-d6 400 MHz) δ 5.24 (t, J=56.0 Hz, 1H).

reactant | Zn | 27.8 mmol, 1.8 g | [Zn] | Zn
reactant | H2O | 20 mL | O | H2O
reactant | Difluoromethanesulfonyl chloride | 33.3 mmol, 5 g | FC(S(=O)(=O)Cl)F | CHClF2O2S
solvent | aluminum | [Al] | Al
product | bis(((difluoromethyl)sulfinyl)oxy)zinc | 4 g, yield: 81.6% | FC(S(=O)O[Zn]OS(=O)C(F)F)F | InChI=1S/2CH2F2O2S.Zn/c2*2-1(3)6(4)5;/h2*1H,(H,4,5);/q;;+2/p-2
